US08809536B2
(R*)-3-[1-((S)-7-Fluoro-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]phenol
A mixture of methanesulfonic acid (R)-(7-fluoro-2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl ester (51 mg, 0.19 mmol), (R*)-3-(piperidin-3-yl)phenol HBr (50 mg, 0.19 mmol) and NaHCO3 (33 mg, 0.39 mmol) in DMF (3.5 ml) was heated at 120° C. for 1.5 h. Water (10 ml) was added to the cooled mixture, which was then extracted with EtOAc (3×10 ml). The combined organic layers were washed several times with water and finally twice with brine. Drying (Na2SO4), filtering and evaporation of the solvent gave the crude product, which was recrystallised from EtOH to afford 24 mg of the title compound as a white solid.

reactant | methanesulfonic acid (R)-(7-fluoro-2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl ester | 0.19 mmol, 51 mg | FC=1C=CC2=C(O[C@H](CO2)COS(=O)(=O)C)C1 | C10H11FO5S
reactant | (R*)-3-(piperidin-3-yl)phenol HBr | 0.19 mmol, 50 mg | Br.N1C[C@H](CCC1)C=1C=C(C=CC1)O
reactant | NaHCO3 | 0.39 mmol, 33 mg | C(=O)(O)[O-].[Na+]
reactant | Water | 10 ml | O | H2O
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | (R*)-3-[1-((S)-7-Fluoro-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]phenol | 24 mg | FC=1C=CC2=C(O[C@H](CO2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O)C1 | C20H22FNO3
